US04433152
A mixture of 9.6 g of bis-[p-(α,α-dimethylbenzyl)phenyl]sulfite prepared from p-(α,α-dimethylbenzyl)phenol and thionyl chloride and 4 g of 1-amidino-4-piperidinepropionic acid hydrochloride was added to a solution of 20 ml of dry dimethylformamide and 8 ml of dry pyridine, and the resulting solution was stirred at room temperature for 2.5 hours. After removal of the solvent, ethyl acetate was added to the residue, and the mixture was stirred to give crystals. The crystals were washed with ethyl acetate and then with ether and recrystallized from isopropanol-ether to obtain 5.5 g (yield: 75.3%) of p-(α,α-dimethylbenzyl)phenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 155° to 156° C.

reactant | bis-[p-(α,α-dimethylbenzyl)phenyl]sulfite | 9.6 g | CC(C1=CC=CC=C1)(C)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C)C | C30H30O3S
reactant | p-(α,α-dimethylbenzyl)phenol | CC(C1=CC=CC=C1)(C)C1=CC=C(C=C1)O | C15H16O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-(α,α-dimethylbenzyl)phenyl 1-amidino-4-piperidinepropionate hydrochloride | 5.5 g, yield: 75.3% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C)C | InChI=1S/C24H31N3O2.ClH/c1-24(2,19-6-4-3-5-7-19)20-9-11-21(12-10-20)29-22(28)13-8-18-14-16-27(17-15-18)23(25)26;/h3-7,9-12,18H,8,13-17H2,1-2H3,(H3,25,26);1H
